US06884525B2
More specifically, 4-bromobenzyl cyanide was oxidized with iodine and hydrolyzed with 3% HCl (aq)/THF to form bis(4-bromophenyl)maleonitrile (40˜50%). See Cook & Linstead (1937) J. Chem. Soc. 929. Bis(4-bromophenyl)maleonitrile thus obtained was alkylated with KotBu/CH3I to afford N-methyl-bis(4-bromophenyl)maleimide (86%). NPAMLI was prepared by palladium catalyzed amination of N-methyl-bis(4-bromophenyl)maleimide (71%), followed by column chromatography and sublimation purification. The synthetic data of the synthesized compounds are listed below:

reactant | 4-bromobenzyl cyanide | BrC1=CC=C(CC#N)C=C1 | C8H6BrN
reactant | iodine | II | I2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | bis(4-bromophenyl)maleonitrile | 40~50% | BrC1=CC=C(C=C1)/C(=C(/C#N)\C1=CC=C(C=C1)Br)/C#N | C16H8Br2N2
